US09290476B2
tert-Butyl 4-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)piperidine-1-carboxylate
A solution of 5-bromo-1-methyl-1H-imidazole (25.0 g, 155 mmol; dried over 3 Å molecular sieves, then filtered) in DCM (310 mL) was stirred on an ice bath while iPrMgCl (72 mL, 2.01 M solution in THF, 145 mmol) was added rapidly dropwise under argon via pressure-equalizing addition funnel. Residual iPrMgCl was rinsed down with 50 mL THF, and the ice bath was removed and the reaction stirred for 25 minutes. A solution of tert-butyl 4-formylpiperidine-1-carboxylate (27.6 g, 130 mmol) (PharmaCore) in THF (65 mL) was added dropwise over ˜5 minutes via pressure-equalizing addition funnel at room temperature. After stirring 1 hour at room temperature, the yellow mixture was quenched with 5 M aqueous NH4Cl (250 mL) in one portion. The organic layer was dried (Na2SO4), filtered, and concentrated to provide the crude title compound as a clear light amber oil.

reactant | 5-bromo-1-methyl-1H-imidazole | BrC1=CN=CN1C | C4H5BrN2
reactant | iPrMgCl | 145 mmol, 2.01 M, 72 mL | C(C)(C)[Mg]Cl
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 130 mmol, 27.6 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)piperidine-1-carboxylate | OC(C1CCN(CC1)C(=O)OC(C)(C)C)C1=CN=CN1C | C15H25N3O3
